US04601746
2-ethoxycarbonylphenylsulfonylisocyanate
At 85° C., 68.76 g (0.3 mol) 2-sulfamylbenzoic acid ethylester are added to 57.9 g (0.45 mol) oxalylchloride and 0.4 g diazadicyclo(2,2,2,)octane in 500 ml absolute toluene. The reaction mixture is heated yet three hours to an interior temperature of 95° C., until no gas development is observed.

reactant | 2-sulfamylbenzoic acid ethylester | 0.3 mol, 68.76 g | C(C)OC(C1=C(C=CC=C1)S(N)(=O)=O)=O | C9H11NO4S
reactant | oxalylchloride | 0.45 mol, 57.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxycarbonylphenylsulfonylisocyanate | C(C)OC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H9NO5S
